US06175007B1
2-Chloro-4-fluoro-5-(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde
150 ml of a 30% by weight aqueous formaldehyde solution and 150 35 ml of concentrated hydrochloric acid were added dropwise to a solution of 189.9 g (0.50 mol) of 2-chloro-4-fluoro-5-(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-methyl)oxime in 0.75 l of glacial acetic acid. The mixture was subsequently refluxed for two hours. After cooling, 0.75 l of water were added, whereupon the solid product of value formed was separated off and washed first with water until the reaction was neutral and then with petroleum ether. Yield: 140 g;

reactant | formaldehyde | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
reactant | 2-chloro-4-fluoro-5-(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde (O-methyl)oxime | 0.50 mol, 189.9 g | CON=CC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C14H10ClF4N3O3
reactant | water | 0.75 l | O | H2O
solvent | acetic acid | 0.75 l | C(C)(=O)O | C2H4O2
product | 2-Chloro-4-fluoro-5-(1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedion-3-yl)benzaldehyde | ClC1=C(C=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H7ClF4N2O3
